US20010003782A1
0.31 ml of a K-Selectride solution (1 N, in tetrahydrofuran) are added to a solution of 63 mg 5-methyl-5α-cholest-8-en-3-one in 4.4 ml tetrahydrofuran at −65°C. After being stirred for 2 hours the reaction mixture is allowed to warm to room temperature, poured into saturated ammonium chloride solution and extracted with ethyl acetate. The organic layer is separated, washed with brine, dried over anhydrous sodium sulphate and filtered. After evaporation of the solvent the residue is chromatographed with a mixture of dichloromethane and acetone to give 26 mg 5-methyl-5-β-cholest-8-en-3α-ol and 21 mg 5-methyl-5β-cholest-8-en-3β-ol as white solids.

reactant | K-Selectride | 1 N, 0.31 ml | CCC([BH-](C(CC)C)C(CC)C)C.[K+]
reactant | 5-methyl-5α-cholest-8-en-3-one | 63 mg | C[C@]12CCC=3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CCC3[C@]2(CCC(C1)=O)C)C | C28H46O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4.4 ml | O1CCCC1 | C4H8O
product | 5-methyl-5β-cholest-8-en-3β-ol | 21 mg | C[C@@]12CCC=3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CCC3[C@]2(CC[C@@H](C1)O)C)C | C28H48O
